US05286752
N-Methyl-N,N'-bis(phenylmethyl)propanimidamide (III: R1 =Bzl, R3 =H, R6 =Me, n=2)
The oily ethoxyiminium salt was combined with 7.6 mL (59 mmol) of methylbenzylamine in 70 mL of ethanol and stirred at room temperature 24 hours. It was then heated for 2 hours at 90°, cooled to 0°, and the solid amidine was filtered off. The solid was dissolved in ethyl acetate and 1 equivalent of maleic acid in ethyl acetate was added to yield 5.1 g of product as the maleate salt, mp 116-118.

reactant | methylbenzylamine | 59 mmol, 7.6 mL | CNCC1=CC=CC=C1 | C8H11N
reactant | maleic acid | 1 equivalent | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | ethanol | 70 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Methyl-N,N'-bis(phenylmethyl)propanimidamide | 5.1 g | CN(C(CC)=NCC1=CC=CC=C1)CC1=CC=CC=C1 | C18H22N2
